US04751295
E. 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetic Acid (III-1)
A mixture of 2-(5-amino-1,2,4-thiadiazol-3-yl-2-methoxyiminoacetonitrile (18.3 g, 0.1 mole) in 4N NaOH (250 ml) was heated at 50°-55° C. with stirring for 3 hours. The reaction mixture was adjusted to pH 1 with H3PO4, and washed with ethyl acetate (100 ml), saturated with NaCl, and extracted three times with a mixture of ethyl acetate and tetrahydrofuran (3:1, 300 ml×2, and 200 ml×1). The extracts were combined, dried over MgSO4 and concentrated under reduced pressure. The residue was triturated with isopropyl ether to afford pale yellow crystals of the title acid. Yield 16.8 g (83%). M.p. 184°-5° C. (dec.). [Lit.*, m.p. 180°-182° C. (dec.)].

reactant | 5-amino-1,2,4-thiadiazol-3-yl-2-methoxyiminoacetonitrile | 0.1 mole, 18.3 g | NC1=NC(=NS1)C(C#N)=NOC | C5H5N5OS
reactant | H3PO4 | OP(=O)(O)O | H3O4P
reactant | NaOH | 4N, 250 ml | [OH-].[Na+]
product | 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetic Acid | NC1=NC(=NS1)C(C(=O)O)=NOC | C5H6N4O3S
